US08633189B2
4-Chloro-2-cyclopentylphenol (2.366 g, 7.94 mmol) was dissolved in dichloromethane (20 mL) and triethylamine (2.2 mL, 15.9 mmol). The solution was cooled to 0° C. and treated with methyl chloroformate (920 μL, 11.91 mmol) and allowed to warm to room temperature over 16 h. The reaction was quenched with 3 mL saturated NaHCO3, washed with 50% saturated NaHCO3 (1×50 mL) and brine (1×50 mL), then dried over Na2SO4. Filtration, followed by concentration in vacuo yielded an oil that was purified by silica gel chromatography (20% ethyl acetate/hexane) to yield 4-chloro-2-cyclopentylphenyl methyl carbonate as a colorless oil. 1H NMR (400.0 MHz, DMSO-d6) δ 7.31-7.28 (m, 1H), 7.20-7.13 (m, 1H), 7.06 (d, J=8.6 Hz, 1H), 3.93 (d, J=3.1 Hz, 3H), 3.18-3.09 (m, 1H), 2.08-2.01 (m, 2H), 1.87-1.78 (m, 2H), 1.75-1.65 (m, 2H), 1.61-1.51 (m, 2H).

reactant | 4-Chloro-2-cyclopentylphenol | 7.94 mmol, 2.366 g | ClC1=CC(=C(C=C1)O)C1CCCC1 | C11H13ClO
reactant | triethylamine | 15.9 mmol, 2.2 mL | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 11.91 mmol, 920 μL | ClC(=O)OC | C2H3ClO2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 4-chloro-2-cyclopentylphenyl methyl carbonate | C(OC1=C(C=C(C=C1)Cl)C1CCCC1)(OC)=O | C13H15ClO3
